US08389511B2
Methyl 4-hydroxy-5-nitro-2-(trifluoromethyl)benzoate (3.0 g) was dissolved in N,N-dimethyl-formamide (50 ml), and thereto were added benzyl bromide (2.3 g) and potassium carbonate (2.3 g), and the mixture was stirred at 80° C. for 6 hours. The reaction mixture was cooled, and water was added thereto. The mixture was extracted with ethyl acetate, and the organic layer was washed twice with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=8:1→5:1→3:1) to give methyl 4-(benzyloxy)-5-nitro-2-(trifluoromethyl)benzoate (2.1 g), which was treated in a similar manner to Reference Example 5 to give the title compound (1.9 g).

reactant | Methyl 4-hydroxy-5-nitro-2-(trifluoromethyl)benzoate | 3.0 g | OC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C(F)(F)F | C9H6F3NO5
reactant | benzyl bromide | 2.3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethyl-formamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 4-(benzyloxy)-5-nitro-2-(trifluoromethyl)benzoate | 2.1 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C(F)(F)F | C16H12F3NO5
